US05750549
4-Methoxy-2-(4-pyridyl)-thiazole-5-carboxaldehyde
5-(Hydroxymethyl)-4-methoxy-2-(4-pyridyl)-thiazole (182 mg, 0.777 mmol) was dissolved in methylene chloride (4 mL) and treated with 4-methylmorpholine-N-oxide (135 mg, 1.15 mmol), powdered 4A molecular sieves (385 mg), and tetrapropylammonium perruthenate (TPAP) (14 mg, 0.040 mmol) overnight at room temperature. The mixture was applied to a column of silica gel and eluted with 25% acetone in hexane to afford 62 mg of title compound.

reactant | 5-(Hydroxymethyl)-4-methoxy-2-(4-pyridyl)-thiazole | 0.777 mmol, 182 mg | OCC1=C(N=C(S1)C1=CC=NC=C1)OC | C10H10N2O2S
reactant | 4-methylmorpholine-N-oxide | 1.15 mmol, 135 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 0.040 mmol, 14 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 4-Methoxy-2-(4-pyridyl)-thiazole-5-carboxaldehyde | 62 mg | COC=1N=C(SC1C=O)C1=CC=NC=C1 | C10H8N2O2S
